US06521666B1
To a solution of N-(2,6-dichlorobenzoyl)-4-(6-methoxy-2-methoxymethoxyphenyl)-L-phenylalanine ethyl ester (938 mg) in EtOH (25 mL) was added HCl (4 N in dioxane, 5 mL), and then the mixture was stirred under N2 for 4 h at room temperature. The mixture was diluted with AcOEt, washed with H2O and brine, dried (MgSO4) and evaporated. The residue was purified by column chromatography (silica gel; eluent: AcOEt/hexane 1:2) to afford N-(2,6-dichlorobenzoyl)-4-(6-methoxy-2-hydoxyphenyl)-L-phenylalanine ethyl ester (795 mg). ESMS m/Z 488 (MH+), 486 (M−H)−.

reactant | N-(2,6-dichlorobenzoyl)-4-(6-methoxy-2-methoxymethoxyphenyl)-L-phenylalanine ethyl ester | 938 mg | C(C)OC([C@@H](NC(C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1OC)OCOC)=O | C27H27Cl2NO6
reactant | HCl | 4 N, 5 mL | Cl | ClH
solvent | EtOH | 25 mL | CCO | C2H6O
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | N-(2,6-dichlorobenzoyl)-4-(6-methoxy-2-hydoxyphenyl)-L-phenylalanine ethyl ester | 795 mg | C(C)OC([C@@H](NC(C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1OC)O)=O | C25H23Cl2NO5
